US04197307
Preparation of 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylsulphonylbenzimidazole
122 5 ml of 40% strength peracetic acid are added dropwise in the course of 30 minutes to a solution, which is kept at room temperature by cooling, of 100 g of 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylthiobenzimidazole in 800 ml of glacial acetic acid, with stirring. The resulting dark red solution is stirred for a further 15 hours at room temperature. A viscous suspension forms and 4 l of demineralised water are added to this. The precipitate formed is then filtered off with suction, washed with water and dried in vacuo at 50° C. This gives 96 g of 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylsulphonylbenzimidazole with a melting point of 215°-218° C., which corresponds to a yield of 89%.

reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylthiobenzimidazole | 100 g | ClC1=CC2=C(N=C(N2)SC)C=C1OC1=C(C=C(C=C1)Cl)Cl | C14H9Cl3N2OS
reactant | water | 4 l | O | H2O
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-6-(2',4'-dichlorophenoxy)-2-methylsulphonylbenzimidazole | yield of 89% | ClC1=CC2=C(N=C(N2)S(=O)(=O)C)C=C1OC1=C(C=C(C=C1)Cl)Cl | C14H9Cl3N2O3S
